** sch_path: /home/bthomas3/Videos/77GHz_phased_array/layout/testbenches/tb_fullchip.sch
**.subckt tb_fullchip
XQ49 OUTP OUTN VCO_TAIL sub! npn13G2l Nx=2 El=1.0
XQ50 OUTN OUTP VCO_TAIL sub! npn13G2l Nx=2 El=1.0
L_VCOP VCC OUTP 27p
L_VCON VCC OUTN 27p
C_VAR1 OUTP OUTN 15f
C_VAR2 OUTP GND 12f
C_VAR3 OUTN GND 12f
I_VCO VCO_TAIL GND PWL(0 0 0.2n 5m 10n 5m)
XQ1 TXP_MID TX_INP TX_TAIL sub! npn13G2l Nx=8 El=1.0
XQ2 TXN_MID TX_INN TX_TAIL sub! npn13G2l Nx=8 El=1.0
XQ25 ANT_TXP VCB_TX TXP_MID sub! npn13G2l Nx=8 El=1.0
XQ26 ANT_TXN VCB_TX TXN_MID sub! npn13G2l Nx=8 El=1.0
RL_TXP VCC ANT_TXP 50
RL_TXN VCC ANT_TXN 50
C_CPTXP OUTP TX_INP 100f
C_CPTXN OUTN TX_INN 100f
R_BIASTXP TX_INP VCC 10k
R_BIASTXN TX_INN VCC 10k
I_TX TX_TAIL GND PWL(0 0 0.2n 10m 10n 10m)
V_VCB_TX VCB_TX GND PWL(0 0 0.2n 2.0 10n 2.0)
XQ61 LNA_MIDP RF_INP LNA_TAIL sub! npn13G2l Nx=4 El=1.0
XQ62 LNA_MIDN RF_INN LNA_TAIL sub! npn13G2l Nx=4 El=1.0
XQ45 RF_P VCB_LNA LNA_MIDP sub! npn13G2l Nx=4 El=1.0
XQ46 RF_N VCB_LNA LNA_MIDN sub! npn13G2l Nx=4 El=1.0
RL_LNAP VCC RF_P 200
RL_LNAN VCC RF_N 200
I_LNA LNA_TAIL GND PWL(0 0 0.2n 6m 10n 6m)
V_VCB_LNA VCB_LNA GND PWL(0 0 0.2n 2.0 10n 2.0)
V_RFP RF_INP GND DC 0.9 SIN(0.9 0.001 77e9)
V_RFN RF_INN GND DC 0.9 SIN(0.9 -0.001 77e9)
XQ41 MIX_MIDP RF_P MIX_TAIL sub! npn13G2l Nx=4 El=1.0
XQ42 MIX_MIDN RF_N MIX_TAIL sub! npn13G2l Nx=4 El=1.0
XQ65 IFP LO_P MIX_MIDP sub! npn13G2l Nx=2 El=1.0
XQ66 IFN LO_N MIX_MIDP sub! npn13G2l Nx=2 El=1.0
XQ67 IFN LO_N MIX_MIDN sub! npn13G2l Nx=2 El=1.0
XQ68 IFP LO_P MIX_MIDN sub! npn13G2l Nx=2 El=1.0
RL_IFP VCC IFP 1k
RL_IFN VCC IFN 1k
C_CPLOP OUTP LO_P 100f
C_CPLON OUTN LO_N 100f
R_BIASLOP VCC LO_P 10k
R_BIASLON VCC LO_N 10k
I_MIX MIX_TAIL GND PWL(0 0 0.2n 4m 10n 4m)
XQ21 DIVP DIVN ILFD_TAIL sub! npn13G2l Nx=4 El=1.0
XQ22 DIVN DIVP ILFD_TAIL sub! npn13G2l Nx=4 El=1.0
XQ11 DIVP INJ_P ILFD_TAIL sub! npn13G2l Nx=2 El=1.0
XQ12 DIVN INJ_N ILFD_TAIL sub! npn13G2l Nx=2 El=1.0
L_DIVP VCC DIVP 120p
L_DIVN VCC DIVN 120p
R_DIVP VCC sub! 5
R_DIVN VCC DIVN 5
C_DIVP DIVP GND 20f
C_DIVN DIVN GND 20f
C_CPINJP OUTP INJ_P 500f
C_CPINJN OUTN INJ_N 500f
R_BIASINJP VCC INJ_P 2k
R_BIASINJN VCC INJ_N 2k
I_ILFD ILFD_TAIL GND PWL(0 0 0.2n 4m 10n 4m)
VCC VCC GND PWL(0 0 0.2n 3.3 10n 3.3)
**** begin user architecture code



.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.options gmin=1e-10 reltol=5e-3 abstol=1e-10 vntol=1e-4
.options itl1=1000 itl2=200 itl4=500
.options method=gear maxord=3
.options noopiter
.tran 0.2p 4n
.meas tran vco_freq trig v(outp) val=3.3 rise=200 targ v(outp) val=3.3 rise=201
.meas tran vco_swing pp v(outp) from=3n to=4n
.meas tran txpa_swing pp v(ant_txp) from=3n to=4n
.meas tran lna_swing pp v(rf_p) from=3n to=4n
.meas tran mixer_ifp pp v(ifp) from=3n to=4n
.meas tran ilfd_freq trig v(divp) val=3.3 rise=100 targ v(divp) val=3.3 rise=101
.meas tran ilfd_swing pp v(divp) from=3n to=4n


**** end user architecture code
**.ends
.end
