** sch_path: /home/bthomas3/Videos/77GHz_phased_array/layout/testbenches/tb_lna.sch
**.subckt tb_lna
XQ61 LNA_MIDP INP LNA_TAIL sub! npn13G2l Nx=1 El=1.0
XQ62 LNA_MIDN INN LNA_TAIL sub! npn13G2l Nx=1 El=1.0
XQ45 LNA_OUTP LNA_VCB LNA_MIDP sub! npn13G2l Nx=1 El=1.0
XQ46 LNA_OUTN LNA_VCB LNA_MIDN sub! npn13G2l Nx=1 El=1.0
RL_P VCC LNA_OUTP 200
RL_N VCC LNA_OUTN 200
VCC VCC GND DC 3.3
ITAIL LNA_TAIL GND DC 6m
VIN_P INP GND DC 0.9 SIN(0.9 0.001 77e9)
VIN_N INN GND DC 0.9 SIN(0.9 -0.001 77e9)
VCASC LNA_VCB GND DC 2.0
**** begin user architecture code



.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.options gmin=1e-10 reltol=5e-3 abstol=1e-10 vntol=1e-4
.options itl1=1000 itl2=200 itl4=500
.options method=gear maxord=3
.options noopiter
.tran 0.2p 2n
.meas tran vswing_outp pp v(lna_outp) from=1n to=2n
.meas tran vswing_inp pp v(inp) from=1n to=2n


**** end user architecture code
**.ends
.end
