** sch_path: /home/bthomas3/Videos/77GHz_phased_array/layout/testbenches/tb_mixer.sch
**.subckt tb_mixer
XQ41 MIX_MIDP RF_P MIX_TAIL sub! npn13G2l Nx=1 El=1.0
XQ42 MIX_MIDN RF_N MIX_TAIL sub! npn13G2l Nx=1 El=1.0
XQ65 IFP LOP MIX_MIDP sub! npn13G2l Nx=1 El=1.0
XQ66 IFN LON MIX_MIDP sub! npn13G2l Nx=1 El=1.0
XQ67 IFN LON MIX_MIDN sub! npn13G2l Nx=1 El=1.0
XQ68 IFP LOP MIX_MIDN sub! npn13G2l Nx=1 El=1.0
RL_IFP VCC IFP 1k
RL_IFN VCC IFN 1k
VCC VCC GND DC 3.3
ITAIL MIX_TAIL GND DC 4m
VRF_P RF_P GND DC 0.9 SIN(0.9 0.01 77e9)
VRF_N RF_N GND DC 0.9 SIN(0.9 -0.01 77e9)
VLO_P LOP GND DC 0.9 SIN(0.9 0.5 77.01e9)
VLO_N LON GND DC 0.9 SIN(0.9 -0.5 77.01e9)
**** begin user architecture code



.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.options gmin=1e-10 reltol=5e-3 abstol=1e-10 vntol=1e-4
.options itl1=1000 itl2=200 itl4=500
.options method=gear maxord=3
.options noopiter
.tran 1p 50n
.meas tran vswing_ifp pp v(ifp) from=40n to=50n
.meas tran vswing_ifn pp v(ifn) from=40n to=50n


**** end user architecture code
**.ends
.end
