** sch_path: /home/bthomas3/Videos/77GHz_phased_array/layout/testbenches/tb_txpa.sch
**.subckt tb_txpa
XQ1 TXP_MID INP TX_TAIL sub! npn13G2l Nx=1 El=1.0
XQ2 TXN_MID INN TX_TAIL sub! npn13G2l Nx=1 El=1.0
XQ25 ANT_TXP VCB TXP_MID sub! npn13G2l Nx=1 El=1.0
XQ26 ANT_TXN VCB TXN_MID sub! npn13G2l Nx=1 El=1.0
RL_P VCC ANT_TXP 50
RL_N VCC ANT_TXN 50
VCC VCC GND DC 3.3
ITAIL TX_TAIL GND DC 10m
VIN_P INP GND DC 0.9 SIN(0.9 0.05 77e9)
VIN_N INN GND DC 0.9 SIN(0.9 -0.05 77e9)
VVCB VCB GND DC 2.0
**** begin user architecture code



.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.options gmin=1e-10 reltol=5e-3 abstol=1e-10 vntol=1e-4
.options itl1=1000 itl2=200 itl4=500
.options method=gear maxord=3
.options noopiter
.tran 0.2p 1.5n
.meas tran vswing_p pp v(ant_txp) from=1n to=1.5n
.meas tran vswing_n pp v(ant_txn) from=1n to=1.5n


**** end user architecture code
**.ends
.end
