* VCO schematic netlist for LVS comparison
* Topology: cross-coupled pair + varactors + tail R + decoupling C
* Net mapping: G1|G2=OUTP, G2=OUTN, $6=TAIL, $2=VSS, $3=VCC
* Varactors: C$8 G1=G2=OUTP, C$7 G2=OUTN (G1,W,W$1 are ports)

.SUBCKT VCO_77G_XTOR G1 G1|G2 G2 W W$1
Q$1 G1|G2 G2 \$6 \$1 npn13G2l we=70n le=1000n Nx=1 m=2
Q$2 G2 G1|G2 \$6 \$1 npn13G2l we=70n le=1000n Nx=1 m=2
R$5 \$2 \$6 \$1 rppd w=0.5u l=0.5u ps=0u b=0 m=1
C$6 \$3 \$2 cap_cmim w=6.99u l=6.99u A=48.8601p P=27.96u m=1
C$7 G1 W G2 \$1 sg13_hv_svaricap w=3.74u l=0.3u Nx=1
C$8 G1|G2 W$1 G1|G2 \$1 sg13_hv_svaricap w=3.74u l=0.3u Nx=1
.ENDS VCO_77G_XTOR